US08283353B2
4′-[(2-methyl-4-{trans-4-[(methylsulfanyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A mixture of 4′-{[4-(trans-4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1.5 g), dimethyl sulfoxide (45 mL) and acetic anhydride (15 mL) was stirred at room temperature for 17 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.83 g, 49%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.5 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C | C29H31N5O2
reactant | dimethyl sulfoxide | 45 mL | CS(=O)C | C2H6OS
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4′-[(2-methyl-4-{trans-4-[(methylsulfanyl)methoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.83 g, 49% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)[C@@H]2CC[C@H](CC2)OCSC)=N1 | C31H35N5O2S
